US07737166B2
7-Fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-99)
N-(3-Cyano-6-fluoro-5-hydroxy-2-methyl[1,1′-biphenyl]-4-yl)-3-hydroxy-2,2-dimethylpropanamide (I-98) (184 mg, 0.54 mmol) was dissolved in toluene (3.7 ml), pyridinium p-toluenesulfonate (34 mg, 0.13 mmol) was added, followed by stirring under heat for 15 hours. After cooling to room temperature, this was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution and saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was recrystallized and purified with diisopropyl ether/ethyl acetate to obtain the entitled compound (118.6 mg, 68%) as a white solid.

reactant | N-(3-Cyano-6-fluoro-5-hydroxy-2-methyl[1,1′-biphenyl]-4-yl)-3-hydroxy-2,2-dimethylpropanamide | 0.54 mmol, 184 mg | C(#N)C=1C(=C(C(=C(C1NC(C(CO)(C)C)=O)O)F)C1=CC=CC=C1)C | C19H19FN2O3
reactant | pyridinium p-toluenesulfonate | 0.13 mmol, 34 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 3.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 118.6 mg, 68% | FC=1C(=C(C(=C2N=C(OC21)C(CO)(C)C)C#N)C)C2=CC=CC=C2 | C19H17FN2O2
